US04279918
2-(4-bromobenzyl)-1-methylpyrrolidine
Add 11.4 moles of bromine at room temperature to 2 g of 2-benzyl-1-methylpyrrolidine and 50 mg of iron powder. Allow the resulting mixture to stand for 2 hours before rendering it alkaline 1 N sodium hydroxide solution. Extract the base with diethyl ether. Distil the ether extract to obtain the title compound as almost-colorless liquid of b.p. 72° at 0.001 mm of Hg.

reactant | bromine | 11.4 moles | BrBr | Br2
reactant | 2-benzyl-1-methylpyrrolidine | C(C1=CC=CC=C1)C1N(CCC1)C | C12H17N
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
catalyst | iron | 50 mg | [Fe] | Fe
product | 2-(4-bromobenzyl)-1-methylpyrrolidine | BrC1=CC=C(CC2N(CCC2)C)C=C1 | C12H16BrN
